US07635715B2
Step D: Preparation of Methyl N-((6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
A mixture of ethyl 6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (0.810 g, 2.41 mmol), glycine methyl ester hydrochloride (0.39 g, 3.11 mmol, 1.3 eq.), 1,4-dioxane (7.0 mL) and DIPEA (1.3 mL, 7.46 mmol) was heated at 80° C. for 6 hours. The mixture was then cooled to room temperature and extracted with EtOAc (3×25 mL). The combined organic extracts were washed with 2N HCl and brine. The solution was dried (MgSO4) and concentrated under reduced pressure to give a pale yellow solid. The product was recrystallized from EtOAc to give a colorless solid (0.68 g). MS m/e=380.0 (M+H)+.

reactant | ethyl 6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 2.41 mmol, 0.810 g | ClC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1)=O)C(=O)OCC)O | C17H17ClO5
reactant | glycine methyl ester hydrochloride | 3.11 mmol, 0.39 g, 1.3 eq. | Cl.COC(CN)=O
reactant | DIPEA | 7.46 mmol, 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 7.0 mL | O1CCOCC1 | C4H8O2
product | Methyl N-((6-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.68 g | ClC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1)=O)C(=O)NCC(=O)OC)O | C18H18ClNO6
